* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : AND3_2x                                      *
* Netlisted  : Fri Apr 17 21:51:25 2026                     *
* Pegasus Version: 23.14-s006 Thu Jan 25 18:41:38 PST 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(N) ngate tndiff(D) poly(G) tndiff(S) psub(B)
*.DEVTMPLT 1 MP(P) pgate tpdiff(D) poly(G) tpdiff(S) nxwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos2v_CDNS_776484276940                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos2v_CDNS_776484276940 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 4 N L=1.8e-07 W=5.7e-06 $X=0 $Y=0 $dt=0
.ends nmos2v_CDNS_776484276940

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos2v_CDNS_776484276941                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos2v_CDNS_776484276941 1 2 3
** N=4 EP=3 FDC=1
M0 2 3 1 1 P L=1.8e-07 W=1.9e-06 $X=0 $Y=0 $dt=1
.ends pmos2v_CDNS_776484276941

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos2v_CDNS_776484276942                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos2v_CDNS_776484276942 1 2 3
** N=4 EP=3 FDC=1
M0 2 3 1 1 P L=1.8e-07 W=6.08e-06 $X=0 $Y=0 $dt=1
.ends pmos2v_CDNS_776484276942

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos2v_CDNS_776484276943                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos2v_CDNS_776484276943 1 2 3
** N=3 EP=3 FDC=1
M0 2 3 1 1 N L=1.8e-07 W=1.9e-06 $X=0 $Y=0 $dt=0
.ends nmos2v_CDNS_776484276943

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AND3_2x                                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AND3_2x A B C Q vdd vss
** N=9 EP=6 FDC=8
X0 1 2 A vss nmos2v_CDNS_776484276940 $T=1400 7200 0 180 $X=560 $Y=1150
X1 5 1 B vss nmos2v_CDNS_776484276940 $T=3400 7200 0 180 $X=2560 $Y=1150
X2 vss 5 C vss nmos2v_CDNS_776484276940 $T=5700 7200 0 180 $X=4860 $Y=1150
X3 vdd 2 A pmos2v_CDNS_776484276941 $T=1500 10400 0 0 $X=590 $Y=9970
X4 vdd 2 B pmos2v_CDNS_776484276941 $T=5000 10400 0 0 $X=4090 $Y=9970
X5 vdd 2 C pmos2v_CDNS_776484276941 $T=8500 10400 0 0 $X=7590 $Y=9970
X6 vdd Q 2 pmos2v_CDNS_776484276942 $T=13900 6200 0 0 $X=12990 $Y=5770
X7 vss Q 2 nmos2v_CDNS_776484276943 $T=13900 3100 0 0 $X=13240 $Y=2750
.ends AND3_2x
